US07612075B2
(3S, 5RS)-1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-benzo[b]thiophen-2-ylmethyl)-3,5-dimethyl-piperazin-2-one
(3 S,5RS)-1-(4-Amino-quinazolin-7-ylmethyl)-3,5-dimethyl-piperazin-2-one (260 mg, 0.56 mmol), EXAMPLE 88, is dissolved in 5 mL of DMF. Potassium carbonate (193.4 mg, 1.4 mmol) is added followed by the addition of 2-bromomethyl-6-chloro-benzo[b]thiophene (218 mg, 0.84 mmol), EXAMPLE 5. Reaction is left to stir overnight. The crude mixture is purified by reverse phase HPLC (10-70% ACN/H2O) to afford the product (27 mg, 6%) as a clear wax with a melting point of 130-131° C. C24H24ClN5OS MS m/z: 466, 468.

reactant | (3 S,5RS)-1-(4-Amino-quinazolin-7-ylmethyl)-3,5-dimethyl-piperazin-2-one | 0.56 mmol, 260 mg | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](NC(C1)C)C)=O | C15H19N5O
reactant | Potassium carbonate | 1.4 mmol, 193.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-6-chloro-benzo[b]thiophene | 0.84 mmol, 218 mg | BrCC1=CC2=C(S1)C=C(C=C2)Cl | C9H6BrClS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (3S, 5RS)-1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-benzo[b]thiophen-2-ylmethyl)-3,5-dimethyl-piperazin-2-one | 27 mg, 6% | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N(C(C1)C)CC1=CC2=C(S1)C=C(C=C2)Cl)C)=O | C24H24ClN5OS
